Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Mechanical fall with headstrike
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a ___ year old right-handed male who presents to
___ ED from ___ for a Head CT concerning for a
small L tentorial subdural hematoma. He reports he was shoveling
snow at his home when he slipped and fell striking the back of
his head on either tile or cement. He is unsure if he lost
consciousness but reports if he had it was brief. He was able to
then ambulate into his home where his wife noted blood on the
back of his head and drove him to ___. There he
received 6 staples in the L posterior parietal area and was
transported here via ambulance for further evaluation of his 
head
bleed. He is on 81mg of Aspirin daily which he took today. 
Denies
any other anticoagulation such as Plavix or Coumadin. Denies
headache, nausea, vomiting, vision changes, numbness, tingling,
incontinence of bowel and/or bladder. He denies pain in any 
other
areas of his body. 

 
Past Medical History:
Hypertension
Hyperlipidemia
TB
Kidney stones

Surgical history:
Kidney removed for concerning growth
Cholecystectomy

 
Social History:
___
Family History:
NC
 
Physical Exam:
UPON ADMISSION:
PHYSICAL EXAM:
O: Laying in stretcher. Family at bedside. 
T: 97.9    BP: 169/73     HR: 72   R: 16    O2Sats: 96%RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ___ reactive bilaterally PERRL.   EOMs: intact, 
no
nystagmus. 
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial sensation intact and symmetric.
VIII: Hearing intact to voice.
XI: Trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch.

Toes downgoing bilaterally

Handedness: Right

Exam on Discharge:
___ x 3.  NAD.  PERRLA.  CN II-XII intact.
___ BUE and BLE.  No pronator drift or dysmetria.  
 
Pertinent Results:
___: CT head ___: small L tentorial subdural
hematoma without significant mass effect

___ CT HEAD W/O CONTRAST:
IMPRESSION:  
Subdural hematoma layers along the left tentorium is stable in 
size relative to prior examination. There is no significant mass 
effect. 
Prominent ventricles and sulci likely reflect age related volume 
loss.  
Periventricular and scattered white matter hypodensities are 
nonspecific 
though likely sequela of chronic ischemia. 
Right occipital encephalomalacia.

___ Head/Neck MRI/MRA (wet read)
Noted again is a small, stable, left tentorial SDH.  There are 
no new hemorrhages or acute findings.  Again is noted 
encephalomalacia of the right cerebellum consistent with 
microvascular changes and old infarct.

 
Brief Hospital Course:
On ___, the patient was transferred to ___ ED from ___ 
___ with L tentorial SDH. He arrived neurologically stable. 
A repeat ___ ordered as pt is on Aspirin 81mg, and it was 
stable. He was admitted from the ED to the floor on telemetry 
due to findings of prior cerebellar stroke. The Neurology 
service was consulted for old cerebellar stroke and the ___ team 
was consulted for trauma workup in the setting of a fall. 

On ___, the patient remained stable.  He ambulated 
independently.  He had an EKG that showed NSR with occasional 
PACs.  His MRI/MRA showed an old right cerebellar infarct and a 
small stable left tentorial SDH.  He was discharged home.  He 
will follow up with Dr. ___ with a repeat head CT next 
___ and should call the office tomorrow to schedule 
this.  He will call and schedule a followup appointment with 
Neurology for further work up on the etiology of his old 
cerebellar infarct.
 
Medications on Admission:
Aspirin 81mg, DOXAZOSIN MESYLATE 2 MG TAB, HYDROCHLOROTHIAZIDE 
12.5 MG CP, LISINOPRIL 40 MG TABLET, PRAVASTATIN SODIUM 40 MG 
TAB
TOPROL XL 25 MG TABLET, Vitamin D
 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Doxazosin 2 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Pravastatin 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left tentorial SDH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Brain Hemorrhage without Surgery

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon.
You may restart your daily Aspirin on ___
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
•Headache is one of the most common symptom after a brain 
bleed. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___